US05389632
b) Preparation of 2-(4-methylphenyl)furan-3-carboxamide
20 ml of SOCl2 are added to a solution of the 13.4 g of furanoic acid prepared above in 70 ml of toluene. The mixture is refluxed for 3 h and the excess SOCl2 and the toluene are then distilled to give an oil, which is reacted at 5° C. with a solution of 100 ml of 1,2-dimethoxyethane saturated with ammonia. The precipitate is filtered off and washed with water and then with isopropyl alcohol to give 7 g of white crystals of amide.

reactant | SOCl2 | 20 ml | O=S(Cl)Cl | Cl2OS
reactant | furanoic acid | 13.4 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
reactant | ammonia | N | H3N
reactant | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methylphenyl)furan-3-carboxamide | 7 g | CC1=CC=C(C=C1)C=1OC=CC1C(=O)N | C12H11NO2
